US05089496
G. 5-HYDROXY-8-CHLORO-11-(4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE
Mix 8-Chloro-11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-5-one (400 mg, 1.23 mmol) in CH3OH (20 mL) at 0° C. under an argon atmosphere, and add in 3 portions NaBH4 (total 231 mg, 6.10 mmol). After 30 minutes, pour the mixture into water and extract (3×) with ethyl acetate. Combine the organic portions, wash with brine, dry over sodium sulfate, filter and concentrate in vacuo. Triturate the solid with isopropyl ether/ethyl acetate to give the title compound as a white solid (351 mg, 87%).

reactant | 8-Chloro-11-(4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridin-5-one | 1.23 mmol, 400 mg | ClC=1C=CC2=C(CC(C=3C(=NC=CC3)C2=C2CCNCC2)=O)C1 | C19H17ClN2O
reactant | NaBH4 | 6.10 mmol, 231 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | CH3OH | 20 mL | CO | CH4O
product | 5-HYDROXY-8-CHLORO-11-(4-PIPERIDYLIDENE)-6,11-DIHYDRO-5H-BENZO[5,6]CYCLOHEPTA[1,2-b]PYRIDINE | 351 mg, 87% | OC1CC2=C(C(C3=NC=CC=C31)=C3CCNCC3)C=CC(=C2)Cl | C19H19ClN2O
